US08975264B2
Step 4: Preparation of (S)-(1-(3-(4-methoxyphenyl)-7-(3-chlorophenyl)-2-methylpyrazolo[1,5-a]pyrimidin-5-yl)pyrrolidin-2-yl)methanol
(S)-(1-(7-(3-Chlorophenyl)-3-iodo-2-methylpyrazolo[1,5-a]pyrimidin-5-yl)pyrrolidin-2-yl)methanol (30 mg), 4-methoxyphenylboronic acid (15 mg) and tetrakis(triphenylphosphine)palladium (10 mg) are added to toluene (10 mL), ethanol (3 mL) and 1 N NaHCO3 aqueous solution (1.5 mL) and stirred overnight at 90° C. under argon atmosphere. After cooling to room temperature, the reaction solvent is removed by distillation under reduced pressure. The remainder is extracted with ethyl acetate and water. The organic layer is washed with brine and dehydrated with anhydrous MgSO4. The dehydrated organic layer is concentrated by distillation under reduced pressure and purified by column chromatography to yield the target compound (21 mg).

reactant | (S)-(1-(7-(3-Chlorophenyl)-3-iodo-2-methylpyrazolo[1,5-a]pyrimidin-5-yl)pyrrolidin-2-yl)methanol | 30 mg | ClC=1C=C(C=CC1)C1=CC(=NC=2N1N=C(C2I)C)N2[C@@H](CCC2)CO | C18H18ClIN4O
reactant | 4-methoxyphenylboronic acid | 15 mg | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
reactant | NaHCO3 | 1 N, 1.5 mL | C(=O)(O)[O-].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium | 10 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | (S)-(1-(3-(4-methoxyphenyl)-7-(3-chlorophenyl)-2-methylpyrazolo[1,5-a]pyrimidin-5-yl)pyrrolidin-2-yl)methanol | 21 mg | COC1=CC=C(C=C1)C=1C(=NN2C1N=C(C=C2C2=CC(=CC=C2)Cl)N2[C@@H](CCC2)CO)C | C25H25ClN4O2
